US07384934B2
(S)-(2-[2-(2-Methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-ethanol dihydro chloride
Add a solution of acetyl chloride (0.194 mL, 2.47 mmol) in absolute ethanol to a solution of freebase (S)-2-[2-(2-methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-ethanol (0.213 g, 0.468 mmol) in absolute ethanol and stir. Isolate the precipitated solid by suction filtration, washing with diethyl ether, and dry the solid at ambient temperature under reduced pressure overnight to give the title compound (0.197 g, 79.8%): mass spectrum (APCI, m/e): 456 (M+1); exact mass spectrum (ES+, m/e, C20H24F3N5O2S.2HCl): calc. 456.1681 (M+1-2HCl), found 456.1668.

reactant | acetyl chloride | 2.47 mmol, 0.194 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-2-[2-(2-methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-ethanol | 0.468 mmol, 0.213 g | COCC[C@@H]1N(CCN(C1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCO | C20H24F3N5O2S
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-Methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-ethanol dihydro chloride | 0.197 g, 79.8% | Cl.Cl.COCCC1N(CCN(C1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCO | InChI=1S/C20H24F3N5O2S.2ClH/c1-30-11-6-13-12-28(8-7-27(13)9-10-29)17-16-18(31-19(26-16)20(21,22)23)25-15-5-3-2-4-14(15)24-17;;/h2-5,13,25,29H,6-12H2,1H3;2*1H
